US08106090B2
[(1R,2S)-1-Benzyl-3-(3,4-dihydro-1H-isoquinolin-2-yl)-2-hydroxy-propyl]-carbamic acid tert-butyl ester
Using general procedure 1 with [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester (0.132 g, 0.50 mmol) and 1,2,3,4-tetrahydro-isoquinoline (0.127 mL, 1.0 mmol) gives the title compound.

reactant | [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester | 0.50 mmol, 0.132 g | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)[C@H]1OC1)=O | C15H21NO3
reactant | 1,2,3,4-tetrahydro-isoquinoline | 1.0 mmol, 0.127 mL | C1NCCC2=CC=CC=C12 | C9H11N
product | [(1R,2S)-1-Benzyl-3-(3,4-dihydro-1H-isoquinolin-2-yl)-2-hydroxy-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CN1CC2=CC=CC=C2CC1)O)CC1=CC=CC=C1)=O | C24H32N2O3
